US07196099B2
Allyl-pent-4-enyl-carbamic acid benzyl ester (15.5 g, 59.8 mmol) was dissolved in dichloromethane and bis(tricyclohexylphosphine)benzylidene ruthenium(IV) dichloride (1 g) was added. The mixture was refluxed under a nitrogen atmosphere until TLC analysis showed complete reaction. The solvent was evaporated under vacuum and the residue was purified by flash chromatography (ethyl acetate/hexane 1:9) to give 2,3,4,7-Tetrahydro-azepine-1-carboxylic acid benzyl ester (7.8 g).

reactant | Allyl-pent-4-enyl-carbamic acid benzyl ester | 59.8 mmol, 15.5 g | C(C1=CC=CC=C1)OC(N(CCCC=C)CC=C)=O | C16H21NO2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | bis(tricyclohexylphosphine)benzylidene ruthenium(IV) dichloride | 1 g | C1CCC(CC1)[P+](C2CCCCC2)(C3CCCCC3)C(C4=CC=CC=C4)[P+](C5CCCCC5)(C6CCCCC6)C7CCCCC7.Cl[Ru]Cl
product | 2,3,4,7-Tetrahydro-azepine-1-carboxylic acid benzyl ester | 7.8 g | C(C1=CC=CC=C1)OC(=O)N1CCCC=CC1 | C14H17NO2
